US07638648B2
[4-(8,8-Dimethyl-5-trifluoromethanesulfonyloxy-7,8-dihydro-naphthalen-2-ylethynyl)-2-fluoro-phenyl]-acetic acid methyl ester (Intermediate 203)
A solution of [4-(8,8-dimethyl-5-oxo-5,6,7,8-tetrahydro-naphthalen-2-ylethynyl)-2-fluoro-phenyl]-acetic acid methyl ester (U.S. Pat. No. 6,252,090; 0.28 g, 0.77 mmol) in anhydrous dichloromethane (5 mL) was treated with 2,6-di-1-butyl-4-methylpyridine (0.189 g, 0.92 mmol) and trifluoromethanesulfonic anhydride (0.136 mL, 0.81 mmol) and the resulting reaction mixture was stirred at ambient temperature for 4 h at the end of which it was diluted with water and extracted with ethyl acetate. The organic extract was washed with water and brine, dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to a residue that was subjected to flash column chromatography on silica gel (230-400 mesh) using 5% ethyl acetate in hexane as the eluent to afford the title compound as a pale orange oil (0.32 g, 84%).

reactant | [4-(8,8-dimethyl-5-oxo-5,6,7,8-tetrahydro-naphthalen-2-ylethynyl)-2-fluoro-phenyl]-acetic acid methyl ester | COC(CC1=C(C=C(C=C1)C#CC1=CC=2C(CCC(C2C=C1)=O)(C)C)F)=O | C23H21FO3
reactant | 2,6-di-1-butyl-4-methylpyridine | 0.92 mmol, 0.189 g | C(CCC)C1=NC(=CC(=C1)C)CCCC | C14H23N
reactant | trifluoromethanesulfonic anhydride | 0.81 mmol, 0.136 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | [4-(8,8-Dimethyl-5-trifluoromethanesulfonyloxy-7,8-dihydro-naphthalen-2-ylethynyl)-2-fluoro-phenyl]-acetic acid methyl ester | 0.32 g, 84% | COC(CC1=C(C=C(C=C1)C#CC1=CC=2C(CC=C(C2C=C1)OS(=O)(=O)C(F)(F)F)(C)C)F)=O | C24H20F4O5S
